US09403801B2
Step 11) tert-butyl 4-(methyl(2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.4]nonane-2-carboxylate
To a suspension of tert-butyl 4-((2-chloropyrimidin-4-yl)(methyl)amino)-2-azaspiro[4.4]nonane-2-carboxylate (0.34 g, 0.93 mmol) in n-BuOH (5.0 mL) was added 1-methyl-1H-pyrazol-4-amine hydrochloride (0.25 g, 1.85 mmol) and DIPEA (0.48 g, 3.71 mmol). The mixture was stirred in a sealed tube and heated to 150° C. overnight, then concentrated in vacuo. The residue was purified by silica gel column chromatography (EA) to give the product as a yellow solid (0.22 g, 55%).

reactant | tert-butyl 4-((2-chloropyrimidin-4-yl)(methyl)amino)-2-azaspiro[4.4]nonane-2-carboxylate | 0.93 mmol, 0.34 g | ClC1=NC=CC(=N1)N(C1CN(CC12CCCC2)C(=O)OC(C)(C)C)C | C18H27ClN4O2
reactant | 1-methyl-1H-pyrazol-4-amine hydrochloride | 1.85 mmol, 0.25 g | Cl.CN1N=CC(=C1)N
reactant | DIPEA | 3.71 mmol, 0.48 g | CCN(C(C)C)C(C)C | C8H19N
solvent | n-BuOH | 5.0 mL | CCCCO | C4H10O
product | tert-butyl 4-(methyl(2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.4]nonane-2-carboxylate | 0.22 g, 55% | CN(C1CN(CC12CCCC2)C(=O)OC(C)(C)C)C2=NC(=NC=C2)NC=2C=NN(C2)C | C22H33N7O2
